US09108969B2
Step C: Preparation of tert-Butyl 2-(7-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate
To a solution of tert-butyl 2-(7-bromo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate (300 mg, 0.86 mmol) and potassium acetate (296 mg, 3.02 mmol) in dioxane (10 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (241 mg, 0.95 mmol). Nitrogen was bubbled through the mixture for 10 min. PdCl2(dppf) (31.5 mg, 0.04 mmol) was added and the mixture was stirred under nitrogen at 90° C. for 1.5 h. The mixture was concentrated. The residue was purified by silica gel flash chromatography to provide the title compound as a yellow solid (340 mg). LCMS m/z=396.3 [M+H]+.

reactant | tert-butyl 2-(7-bromo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate | 0.86 mmol, 300 mg | BrC1=CC=2C=C3N(C2C=C1)CCC3=CC(=O)OC(C)(C)C | C17H18BrNO2
reactant | potassium acetate | 3.02 mmol, 296 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.95 mmol, 241 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.04 mmol, 31.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 2-(7-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate | 340 mg | CC1(OB(OC1(C)C)C1=CC=2C=C3N(C2C=C1)CCC3=CC(=O)OC(C)(C)C)C | C23H30BNO4
